US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-fluoroimidazo[1,2-a]pyridine-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.767 mmol) and 3-fluoroimidazo[1,2-a]pyridine-2-carboxylic acid (180 mg, 0.997 mmol). The product was triturated with acetonitrile. Yield 217 mg (67%). 1H-NMR (400 MHz; d6-DMSO): δ 1.15 (d, 3H), 4.31-4.44 (m, 2H), 4.47-4.55 (m, 1H), 6.95 (d, 1H), 7.06 (t, 1H), 7.37 (m, 1H), 7.55-7.58 (m, 1H), 7.85 (d, 1H), 7.97 (d, 1H), 8.08 (t, 1H), 8.31 (1H, d), 8.55 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 3-fluoroimidazo[1,2-a]pyridine-2-carboxylic acid | 0.997 mmol, 180 mg | FC1=C(N=C2N1C=CC=C2)C(=O)O | C8H5FN2O2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-fluoroimidazo[1,2-a]pyridine-2-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C2N(C=CC=C2)C1F | C21H16ClFN6O
